US05017212
6-Benzylthioimidazo[2,1-b]thiazole-5-carboxylic acid
To a solution of 3.5 g of ethyl 6-benzylthioimidazo [2,1-b]thiazole-5-carboxylate in 25 ml of ethanol is added sodium hydroxide solution (prepared by dissolving 1.5 g of sodium hydroxide in 7 ml of water) and the mixture is stirred for 30 minutes at 50°-60° C. and then under reflux for 20 minutes. The reaction solution is concentrated, added with 70 ml of water and adjusted to pH 3 by addition of hydrochloric acid. The precipitate is collected by filtration and dried to obtain 3.0 g of the title compound, mp. 147°-150° C. (decomp.).

reactant | ethyl 6-benzylthioimidazo [2,1-b]thiazole-5-carboxylate | 3.5 g | C(C1=CC=CC=C1)C=1N=C2SC=CN2C1C(=S)OCC | C15H14N2OS2
reactant | sodium hydroxide | 7 ml, 1.5 g | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 6-Benzylthioimidazo[2,1-b]thiazole-5-carboxylic acid | 3.0 g | C(C1=CC=CC=C1)C=1N=C2SC=CN2C1C(=S)O | C13H10N2OS2
